US08871361B2
Aniline (2.75 g, 29.6 mmol), 2-(3-chlorophenyl)quinoline (5.25 g, 21.90 mmol), sodium tert-butoxide (3.36 g, 35.0 mmol), Pd2dba3 (0.501 g, 0.548 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybephenyl (S-Phos) (0.898 g, 2.190 mmol) were charged into the reaction flask with 200 mL of toluene. This mixture was evacuated and back-filled with nitrogen then was heated at reflux for 20 h. The reaction mixture was cooled to room temperature then was diluted with 200 mL of water. The toluene layer was separated and the aqueous was extracted with 100 mL of toluene. The organic extracts were combined and removed under vacuum. The crude residue was passed through a silica gel column using 75% DCM/hexanes then was passed through a silica gel column using 1-5% ethyl acetate/DCM. The clean product fractions were combined and solvents were removed under vacuum yielding N-phenyl-3-(quinolin-2-yl)aniline (3 g, 10.12 mmol, 46.2% yield).

reactant | Aniline | 29.6 mmol, 2.75 g | NC1=CC=CC=C1 | C6H7N
reactant | 2-(3-chlorophenyl)quinoline | 21.90 mmol, 5.25 g | ClC=1C=C(C=CC1)C1=NC2=CC=CC=C2C=C1 | C15H10ClN
reactant | sodium tert-butoxide | 35.0 mmol, 3.36 g | CC(C)([O-])C.[Na+]
catalyst | Pd2dba3 | 0.548 mmol, 0.501 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-3-(quinolin-2-yl)aniline | 10.12 mmol, 3 g, 46.2% yield | C1(=CC=CC=C1)NC1=CC(=CC=C1)C1=NC2=CC=CC=C2C=C1 | C21H16N2
